US07375115B2
2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl-amine
To a solution of N-[2-[1-[2(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]-ethyl]phthalimide (1.52 g) dissolved in ethanol (30 mL) was added hydrazine monohydrate. The reaction solution was heated under reflux for 4 hours. To this was added diethyl ether and the insolbles were filtered off. The solvent was then distilled off under reduced pressure. To this was added chloroform, and the solution was made basic by addition of a 1N aqueous hydroxide solution. The solution was then extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, filtered, and then, the solvent was distilled off under reduced pressure to give the title compound (1.20 g).

reactant | N-[2-[1-[2(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]-ethyl]phthalimide | 1.52 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C34H41NO3Si
reactant | hydrazine monohydrate | O.NN
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[1-[2-(tert-Butyldiphenylsiloxy)ethyl]cyclohexyl]ethyl-amine | 1.20 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCN | C26H39NOSi
